US07259179B2
1-[6-{[(1S)-1-phenylethyl]amino}pyrazin-2-yl]-N-(2-hydroxyethyl)-1H-benzimidazole-5-carboxamide.
In a procedure analogous to example 12, reaction of 6-chloro-N-[(1S)-1-phenylethyl]pyrazin-2-amine (91 mg, 0.39 mmol) and benzimidazole 5-carboxylic acid (2-hydroxyethyl)amide (88 mg, 0.43 mmol) furnished the product which was purified by column chromatography (22 mg, 14%).

reactant | 6-chloro-N-[(1S)-1-phenylethyl]pyrazin-2-amine | 0.39 mmol, 91 mg | ClC1=CN=CC(=N1)N[C@@H](C)C1=CC=CC=C1 | C12H12ClN3
reactant | benzimidazole 5-carboxylic acid (2-hydroxyethyl)amide | 0.43 mmol, 88 mg | OCCNC(=O)C1=CC2=C(N=CN2)C=C1 | C10H11N3O2
product | 1-[6-{[(1S)-1-phenylethyl]amino}pyrazin-2-yl]-N-(2-hydroxyethyl)-1H-benzimidazole-5-carboxamide | C1(=CC=CC=C1)[C@H](C)NC1=CN=CC(=N1)N1C=NC2=C1C=CC(=C2)C(=O)NCCO | C22H22N6O2
